US07648983B2
2-((4S,6S)-2-amino-4-(4-fluoro-3-(pyrimidin-5-yl)phenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-6-yl)propan-2-ol
A solution of tert-butyl (4S,6S)-6-(2-hydroxypropan-2-yl)-4-methyl-4-(3-(pyrimidin-5-yl)phenyl)-5,6-dihydro-4H-1,3-thiazin-2-ylcarbamate (221 mg, 0.50 mmol) in trifluoroacetic acid (2 mL) is stirred at room temperature for 80 min. The mixture is added directly to a MeOH-equilibrated SCX column. The column is washed with MeOH (100 mL) and the product is eluted with 7N NH3 in MeOH (100 mL). The solution is concentrated under reduced pressure. The residue is diluted with CH2Cl2 and HCl (g) is bubbled through for 5 min. The reaction mixture is concentrated to give the title compound (67.5% yield): MS (m/z): 343 (M+1).

reactant | tert-butyl (4S,6S)-6-(2-hydroxypropan-2-yl)-4-methyl-4-(3-(pyrimidin-5-yl)phenyl)-5,6-dihydro-4H-1,3-thiazin-2-ylcarbamate | 0.50 mmol, 221 mg | OC(C)(C)[C@@H]1C[C@](N=C(S1)NC(OC(C)(C)C)=O)(C1=CC(=CC=C1)C=1C=NC=NC1)C | C23H30N4O3S
reactant | MeOH | CO | CH4O
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-((4S,6S)-2-amino-4-(4-fluoro-3-(pyrimidin-5-yl)phenyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-6-yl)propan-2-ol | 67.5% yield | NC=1S[C@@H](C[C@@](N1)(C)C1=CC(=C(C=C1)F)C=1C=NC=NC1)C(C)(C)O | C18H21FN4OS
